US05952331
2-Amino-4-hydroxy-6-tert-butylpyrimidine (8.35 g) was dissolved in 50 mL of phosphorus oxychloride and the solution refluxed for 2 hours. Excess phosphorus oxychloride was removed under vacuum and the residue dissolved in 100 mL of ethanol. The solution was adjusted to pH 8 with ice-cold concentrated ammonium hydroxide, and solvent removed under reduced pressure. The residue was filtered to give a white solid, which was recrystallized from ethanol-water to give 2-amino-4-chloro-6-tert-butylpyrimidine (3.66 g), m.p. 87.7-88.90° C.

reactant | 2-Amino-4-hydroxy-6-tert-butylpyrimidine | 8.35 g | NC1=NC(=CC(=N1)O)C(C)(C)C | C8H13N3O
reactant | phosphorus oxychloride | 50 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-amino-4-chloro-6-tert-butylpyrimidine | 3.66 g | NC1=NC(=CC(=N1)Cl)C(C)(C)C | C8H12ClN3
